US04366248
Synthesis of 6,7-dihydroxy-4'-methoxyisoflavone (6,7-dihydroxy-3-(4-methoxyphenyl)chromone)
Four grams (14.6 milimol) of (4-methoxybenzyl)-2,4,5-trihydroxyphenyl ketone were dissolved in 50 ml. of dry dimethylformamide. To this solution was added 7.5 grams of borontrifluoride-methyetherate (BF3 -(CH3)2O dropwise. Under spontaneous elevation of the temperature the color of the solution turns to yellowish-green. Then the temperature of the reaction is adjusted to 50° C. and a solution of 5 grams methanesulphonyl chloride (CH3SO2Cl) in 25 ml of dry dimethylformamide (DMF) is added dropwise. Thereafter, the solution is heated for 90 minutes at 90°-100° C. After cooling to room temperature, the reaction mixture is poured into 500 ml water and the resulting yellow precipitate is filtered off. After drying in a desicator the crude product is purified by boiling in 50 ml methanol and then 50 ml of ethyl ether. The resulting white powder can be recrystallized from dioxane or glacial acetic acid. This product is 6,7-dihydroxy-3-(4-methoxyphenyl)-chromone(texasin).

reactant | (4-methoxybenzyl)-2,4,5-trihydroxyphenyl ketone | Four grams | COC1=CC=C(CC=2C(=C(C=C(C2O)O)C(=O)C2=C(C(=C(C(=C2)O)O)CC2=CC=C(C=C2)OC)O)O)C=C1 | C29H26O9
reactant | BF3 (CH3)2O | B(F)(F)F.O(C)C
reactant | methanesulphonyl chloride | 5 grams | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6,7-dihydroxy-4'-methoxyisoflavone | OC=1C=C2C(C(=COC2=CC1O)C1=CC=C(C=C1)OC)=O | C16H12O5
